US05852019
(1) 1-[5-Methyl-1-(4-hydroxy-6-methyl-2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-methylphenyl)-1-piperazinyl]-1-propanone hydrochloride
300 mg of boron tribromide was added to 3 ml of methylene chloride and the obtained solution was cooled. Into the solution was dropped a solution of 470 mg of 1-[5-methyl-1-(4-methoxy-6-methyl-2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-methylphenyl)-1-piperazinyl]-1-propanone hydrochloride in 100 ml of methylene chloride. After stirring at room temperature for 72 hours, water was added and the mixture was extracted with methylene chloride twice. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (silica gel 800 g, chloroform:methanol=10:1-5:1). Then the obtained product was converted into hydrochloride by adding a 1N hydrochloric acid/ethanol solution and recrystallized from ethanol to thereby give 150 mg of the title compound.

reactant | boron tribromide | 300 mg | B(Br)(Br)Br | BBr3
reactant | 1-[5-methyl-1-(4-methoxy-6-methyl-2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-methylphenyl)-1-piperazinyl]-1-propanone hydrochloride | 470 mg | Cl.CC1=C(C=NN1C1=NC(=CC(=N1)OC)C)C(CCN1CCN(CC1)C1=C(C=CC=C1)C)=O
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-[5-Methyl-1-(4-hydroxy-6-methyl-2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-methylphenyl)-1-piperazinyl]-1-propanone hydrochloride | 150 mg | Cl.CC1=C(C=NN1C1=NC(=CC(=N1)O)C)C(CCN1CCN(CC1)C1=C(C=CC=C1)C)=O | InChI=1S/C23H28N6O2.ClH/c1-16-6-4-5-7-20(16)28-12-10-27(11-13-28)9-8-21(30)19-15-24-29(18(19)3)23-25-17(2)14-22(31)26-23;/h4-7,14-15H,8-13H2,1-3H3,(H,25,26,31);1H
